US05969146
1.5. Ethyl 2-cyano-5-(phenylmethoxy)phenoxyacetate
9.7 g (0.20 mol) of 50% sodium hydride are slowly added portionwise to a solution of 46 g (0.20 mol) of 2-hydroxy-4-(phenylmethoxy)benzonitrile in a mixture of 450 ml of tetrahydrofuran and 450 ml of dimethylformamide. The mixture is stirred for 30 minutes and then 22.4 ml (0.20 mol) of ethyl bromoacetate are added dropwise. Reaction is allowed to take place for 30 minutes, the reaction mixture is then poured into ice-cold water and the product is extracted with ethyl acetate. The organic phase is then washed with water, dried over sodium sulphate and concentrated under reduced pressure. After trituration of the residue in diisopropyl ether, 50 g of product are obtained.

reactant | sodium hydride | 0.20 mol, 9.7 g | [H-].[Na+]
reactant | 2-hydroxy-4-(phenylmethoxy)benzonitrile | 0.20 mol, 46 g | OC1=C(C#N)C=CC(=C1)OCC1=CC=CC=C1 | C14H11NO2
reactant | ethyl bromoacetate | 0.20 mol, 22.4 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-cyano-5-(phenylmethoxy)phenoxyacetate | 50 g | C(#N)C1=C(OCC(=O)OCC)C=C(C=C1)OCC1=CC=CC=C1 | C18H17NO4
